US07781428B2
(±)-(3SR,3aRS)-(9H-fluoren-9-yl)methyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate
The title compound was prepared from (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid, Example 15 and 9-fluorenylmethanol according to Method E. 1H NMR (400 MHz, CDCl3) δ ppm 1.19-1.67 (m, 7H), 1.72-1.85 (m, 1H), 1.99 (ddd, J=26.11, 12.96, 4.16 Hz, 1H), 2.07-2.22 (m, 1H), 2.25-2.38 (m, 1H), 2.85-3.03 (m, 1H), 3.06-3.21 (m, 1H), 3.50 (ddd, J=13.83, 9.26, 4.83 Hz, 1H), 4.41 (t, J=7.12 Hz, 1H), 4.60-4.70 (m, 3H), 7.03 (dd, J=8.73, 2.01 Hz, 1H), 7.29-7.38 (m, 3H), 7.40-7.51 (m, 3H), 7.66 (d, J=7.52 Hz, 2H), 7.82 (d, J=7.52 Hz, 2H), 7.91-8.00 (m, 2H), 8.20 (d, J=8.06 Hz, 1H).

reactant | (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)O | C24H22ClN3O2
reactant | 9-fluorenylmethanol | C1=CC=CC=2C3=CC=CC=C3C(C12)CO | C14H12O
product | (±)-(3SR,3aRS)-(9H-fluoren-9-yl)methyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OCC3C1=CC=CC=C1C=1C=CC=CC31 | C38H32ClN3O2
